US06777211B1
The same procedure as in Example 2 was repeated, except that linoleic acid was replaced by α-linolenic acid, whereby 13-hydroxy-9,15-octadecadienoic acid was obtained.

reactant | linoleic acid | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O | C18H32O2
reactant | α-linolenic acid | C(CCCCCCC\C=C/C\C=C/C\C=C/CC)(=O)O | C18H30O2
product | 13-hydroxy-9,15-octadecadienoic acid | OC(CCC=CCCCCCCCC(=O)O)CC=CCC | C18H32O3
